US06423704B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(thien-2-ylmethyl)-1H-benzimidazol-2-yl) [1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 35.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (RrR)-di-p-anisoyltartaric acid salt) and 2-(bromomethyl)thiophene (J. Am. Chem. Soc., 71 1201-1204 (1949)) to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H41N5O4
reactant | 2-(bromomethyl)thiophene | BrCC=1SC=CC1 | C5H5BrS
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(thien-2-ylmethyl)-1H-benzimidazol-2-yl) [1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC=2SC=CC2)C=CC=C3)C=C(C1OC)OC | C39H45N5O4S
